US08791123B2
Step C: Preparation of (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)-N-(1-(trifluoromethyl)cyclopropyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
To a DMF (0.4 mL) solution of (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation I, 50 mg, 0.15 mmol) and HATU (87 mg, 0.23 mmol) was charged 1-(trifluoromethyl)cyclopropanamine hydrochloride (37 mg, 0.23 mmol), followed by drop-wise addition of DIEA (0.080 mL, 0.46 mmol). After stirring first at ambient temperature for 15 minutes and then at 85° C. overnight, the reaction was cooled and directly purified by reverse-phase chromatography (5 to 60% acetonitrile/water) to yield the final product as off-white solid (15 mg, 23%). LCMS (apci) m/z=435.0 (M+H).

reactant | (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.15 mmol, 50 mg | FC=1C=C(C=NC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C16H14FN5O2
reactant | HATU | 0.23 mmol, 87 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(trifluoromethyl)cyclopropanamine hydrochloride | 0.23 mmol, 37 mg | Cl.FC(C1(CC1)N)(F)F
reactant | DIEA | 0.46 mmol, 0.080 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
product | (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)-N-(1-(trifluoromethyl)cyclopropyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 15 mg, 23% | FC=1C=C(C=NC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)NC2(CC2)C(F)(F)F | C20H18F4N6O
